datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc(OC(CBr)(c2ccccc2)[O-:10])cc1.O=S(Cc1ccccc1)c1cnn[n:21]1[H:20]>>Cc1ccc(OC(CBr)(c2ccccc2)[O:10][H:20])cc1.O=S(Cc1ccccc1)c1cnn[n-:21]1 10=20;20,21=21",
"C1CCC2C[NH:10]CCC2C1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CCC2C[NH+:10]([H:20])CCC2C1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"NC(C/C(N)=[N:10]\O)=NO.Nc1c2[nH]cnc2[n+:21]([H:20])c[n+]1[O-]>>NC(C/C(N)=[N+:10](\O)[H:20])=NO.Nc1c2[nH]cnc2[n:21]c[n+]1[O-] 10=20;20,21=21",
"CC(C)[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COCC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=C([N+](=O)[O-])C=C1)[H:20]>>COCC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C=CC[N+:21](CC(C)O)(CC(C)O)[H:20].C[N+](C)(C)c1ccc([O-:10])cc1>>C=CC[N:21](CC(C)O)CC(C)O.C[N+](C)(C)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.NCC[NH:10]CCCO>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.NCC[NH+:10](CCCO)[H:20] 10=20;20,21=21",
"Ic1cccc([NH2+:21][H:20])c1.O=C([O-])c1cc2cc(Cn3cc[n:10]c3)ccc2s1>>Ic1cccc([NH2:21])c1.O=C([O-])c1cc2cc(Cn3cc[n+:10]([H:20])c3)ccc2s1 10=20;20,21=21",
"CC1=C(CC(C)[NH2+]CC(O)c2ccc([NH2:10])cc2)CCC1(C)C.O=C1C=C(c2ccccc2)Oc2cc([O:21][H:20])ccc21>>CC1=C(CC(C)[NH2+]CC(O)c2ccc([NH2+:10][H:20])cc2)CCC1(C)C.O=C1C=C(c2ccccc2)Oc2cc([O-:21])ccc21 10=20;20,21=21",
"CC1CCC[NH:10]C1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC1CCC[NH+:10]([H:20])C1.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH-:10].N#CC(C#N)=[N+:21](Nc1ccc(/N=N/c2ccccc2)cc1)[H:20]>>Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH:10][H:20].N#CC(C#N)=[N:21]Nc1ccc(/N=N/c2ccccc2)cc1 10=20;20,21=21",
"CS(C(C)(C)C)=[O:10].O=C(C1(O)CCC1)[O:21][H:20]>>CS(C(C)(C)C)=[O+:10][H:20].O=C(C1(O)CCC1)[O-:21] 10=20;20,21=21",
"O=C([O-])CCC#CC#CC[NH2:10].c1ccc2cc([S:21][H:20])ncc2c1>>O=C([O-])CCC#CC#CC[NH2+:10][H:20].c1ccc2cc([S-:21])ncc2c1 10=20;20,21=21",
"Cc1ccc2[nH]c(CO)[n+:21]([H:20])c2c1.c1ccc(-c2c[n-:10]c(-c3ccccc3)n2)cc1>>Cc1ccc2[nH]c(CO)[n:21]c2c1.c1ccc(-c2c[n:10]([H:20])c(-c3ccccc3)n2)cc1 10=20;20,21=21",
"CC(C)NNC1CC[N+:21](C)([H:20])CC1.CCCCCCCc1c(-c2ccccc2)n[nH]c1[O-:10]>>CC(C)NNC1CC[N:21](C)CC1.CCCCCCCc1c(-c2ccccc2)n[nH]c1[O:10][H:20] 10=20;20,21=21",
"Cc1cc(N)nc(Nc2ccc(Cl)cc2)[n+:21]1[H:20].NC(=O)C#CC#C/C=C/C(=O)[O-:10]>>Cc1cc(N)nc(Nc2ccc(Cl)cc2)[n:21]1.NC(=O)C#CC#C/C=C/C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1ccnc([N:21](S(=O)(=O)c2ccc(Cl)cc2)[H:20])n1.[O-]c1ccc([OH:10])c2ccccc12>>Cc1ccnc([N-:21]S(=O)(=O)c2ccc(Cl)cc2)n1.[O-]c1ccc([OH+:10][H:20])c2ccccc12 10=20;20,21=21",
"CC(C)[NH2+]CCc1ccc([O-:10])cc1.O=[N+]([O-])c1ccc([O-])c(C[N+:21]2([H:20])CCOCC2)c1>>CC(C)[NH2+]CCc1ccc([O:10][H:20])cc1.O=[N+]([O-])c1ccc([O-])c(C[N:21]2CCOCC2)c1 10=20;20,21=21",
"COc1ccc(C(O)C[NH2:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc(C(O)C[NH2+:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C(=O)[O:21][H:20])C(C#N)c1ccccc1.CC1C[N:10]2CCC1CC2>>CC(C)(C(=O)[O-:21])C(C#N)c1ccccc1.CC1C[N+:10]2([H:20])CCC1CC2 10=20;20,21=21",
"C1CNCC[NH:10]CCN1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1CNCC[NH+:10]([H:20])CCN1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COC(=O)C(C)(C)c1c[nH]c(CO)[n+:21]1[H:20].C[C@@H]1CC[C@@H]2CC[C@H](C)[N:10]21>>COC(=O)C(C)(C)c1c[nH]c(CO)[n:21]1.C[C@@H]1CC[C@@H]2CC[C@H](C)[N+:10]21[H:20] 10=20;20,21=21",
"C(CSCCc1nnn[n-:10]1)SCCc1nnn[n-]1.Nc1nc[nH+]c2c1ncn2CCOCP(=O)(O)[O:21][H:20]>>C(CSCCc1nnn[n:10]1[H:20])SCCc1nnn[n-]1.Nc1nc[nH+]c2c1ncn2CCOCP(=O)(O)[O-:21] 10=20;20,21=21",
"CC[Si](C)(C)C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC[Si](C)(C)C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NC(=NO)C(c1ccccc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NC(=NO)C(c1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"COc1ccc2[nH]cc(CC(C)[NH2+:21][H:20])c2c1.Cc1ccccc1/C(c1ccccc1-c1ccccc1)=[N:10]/CCC[NH+](C)C>>COc1ccc2[nH]cc(CC(C)[NH2:21])c2c1.Cc1ccccc1/C(c1ccccc1-c1ccccc1)=[N+:10](/CCC[NH+](C)C)[H:20] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1.[OH-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1.[OH:10][H:20] 10=20;20,21=21",
"COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH:10]C[C@H]1C(C)O.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH+:10]([H:20])C[C@H]1C(C)O.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(O)C[N+:21](Cc1ccccc1)(CC(C)O)[H:20].CN(C)c1nc[n:10]c2[nH]ncc12>>CC(O)C[N:21](Cc1ccccc1)CC(C)O.CN(C)c1nc[n+:10]([H:20])c2[nH]ncc12 10=20;20,21=21",
"Cc1cc([O-])ccc1[O-:10].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>Cc1cc([O-])ccc1[O:10][H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
